US07897737B2
To a solution of thymidine (5.00 g, 20.64 mmol) and imidiazole (9.0 g, 132.1 mmol) in anhydrous DMF (11 mL), a solution of TBSCl (9.96 g, 66.05 mmol) in DMF (11 mL) was added dropwise, and the mixture was stirred at room temperature overnight under a N2 atmosphere. After the mixture was diluted with water (100 mL), the formed precipitate was filtered and dissolved in ethyl ether (125 mL). The ether solution was washed twice with water (25 mL each) and once with brine (25 mL), dried over Na2SO4, and concentrated under reduced pressure to a waxy solid, which was re-crystallized from hexane/ethyl either (10:1) to yield 3′,5′-O-bis-tert-butyldimethylsilyl-thymidine dT.04 (10.64 g, 90%).

reactant | thymidine | 20.64 mmol, 5.00 g | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
reactant | TBSCl | 66.05 mmol, 9.96 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | 11 mL | CN(C)C=O | C3H7NO
solvent | DMF | 11 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 3′,5′-O-bis-tert-butyldimethylsilyl-thymidine | [Si](C)(C)(C(C)(C)C)[C@@]1(C[C@@H](O[C@@H]1CO[Si](C)(C)C(C)(C)C)N1C(=O)NC(=O)C(C)=C1)O | C22H42N2O5Si2
